US07176231B2
(1) 1,5-diacetyl-3-[(benzo[1,3]dioxol-5-yl)-hydroxy-methylidene]-2-indolinone
Prepared from 1,5-diacetyl-2-indolinone and piperonylic acid (benzo[1,3]dioxole-5-carboxylic acid)

reactant | 1,5-diacetyl-2-indolinone | C(C)(=O)N1C(CC2=CC(=CC=C12)C(C)=O)=O | C12H11NO3
reactant | piperonylic acid | C(C1=CC=2OCOC2C=C1)(=O)O | C8H6O4
product | 1,5-diacetyl-3-[(benzo[1,3]dioxol-5-yl)-hydroxy-methylidene]-2-indolinone | C(C)(=O)N1C(C(C2=CC(=CC=C12)C(C)=O)=C(O)C1=CC2=C(OCO2)C=C1)=O | C20H15NO6
